US08258144B2
A mixture of 3-nitrobenzylamine hydrochloride (530 mg, 2.81 mmol), di-t-butyl dicarbonate (613 mg, 2.81 mmol) and TEA (0.800 mL, 5.75 mmol) in CH2Cl2 (8 mL) was stirred at room temperature for 72 h. It was concentrated in vacuo, the residue was partitioned between water and EtOAc. The organic phase was washed with 1N HCl, then with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give tert-butyl 3-nitrobenzylcarbamate as a solid (705 mg).

reactant | 3-nitrobenzylamine hydrochloride | 2.81 mmol, 530 mg | Cl.[N+](=O)([O-])C=1C=C(CN)C=CC1
reactant | di-t-butyl dicarbonate | 2.81 mmol, 613 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-nitrobenzylcarbamate | 705 mg | [N+](=O)([O-])C=1C=C(CNC(OC(C)(C)C)=O)C=CC1 | C12H16N2O4
